US06172181B2
A round bottom flask provided with a condenser was supplied with 6.0 g of 2,3,4,5,6-pentafluoro-4′-methoxybenzophenone, 40 ml of glacial acetic acid, and 30 ml of an aqueous 48% hydrogen bromide solution. The resultant mixture was refluxed overnight and then cooled to a room temperature. The product was extracted from diethyl ether, dried with magnesium sulfate, filtered, and separated by distillation. It was recrystallized from toluene, to afford as white crystals 3.7 g (yield 78.8%) of 2,3,4,5,6-pentafluoro-4′-hydroxybenzophenone (hereinafter referred to as “HPBP”). The melting point of the product was 142° to 143° C. The NMR chemical shift of the crystals is shown in Table 1.

reactant | 2,3,4,5,6-pentafluoro-4′-methoxybenzophenone | 6.0 g | FC1=C(C(=O)C2=CC=C(C=C2)OC)C(=C(C(=C1F)F)F)F | C14H7F5O2
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 2,3,4,5,6-pentafluoro-4′-hydroxybenzophenone | 3.7 g, yield 78.8% | FC1=C(C(=O)C2=CC=C(C=C2)O)C(=C(C(=C1F)F)F)F | C13H5F5O2
